US04028084
(a) N-(2'-chlorobenzyl)-2-cyanoacetamide
A solution of 80.5 g. (0.71 mole) of ethyl cyanoacetate and 100 g. (0.71 mole) of 2-chlorobenzylamine in 200 ml. of absolute ethanol heated at reflux for 2 hours and then allowed to stand at ambient temperature overnight. The solvent is removed in vacuo and the residue is recrystallized from ether/pentane to give 56 g. (38% yield) of the desired product as a near white solid, m.p. 102°-4° C.;ν3300 (NH), 2270 (CN), and 1650 cm.-1 (C=O);δ8.7 (broad, 1H, NH), 7.35 (broad s, 4H, aromatic protons), 4.40 (d, 2H, benzyl methylene) and 3.7 (broad s, 2H, CH2CO).

reactant | ethyl cyanoacetate | 0.71 mole | C(#N)CC(=O)OCC | C5H7NO2
reactant | 2-chlorobenzylamine | 0.71 mole | ClC1=C(CN)C=CC=C1 | C7H8ClN
solvent | ethanol | C(C)O | C2H6O
product | N-(2'-chlorobenzyl)-2-cyanoacetamide | 38% yield | ClC1=C(CNC(CC#N)=O)C=CC=C1 | C10H9ClN2O
